US06998414B2
A mixture of p-anisidine (4.92 g, 40 mmol), 4-nitrophenylacetic acid (7.25 g, 40 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (11.5 g, 60 mmol) in pyridine (40 mL) was stirred at room temperature overnight. The solvent was evaporated, and HCl (1M, 50 mL) was added. The resulting product was filtered and washed with water and ether, and recrystallized from ethanol to give N-(4-Methoxyphenyl)-2-(4-nitro-phenyl)-acetamide (9.6 g, 84%).

reactant | p-anisidine | 40 mmol, 4.92 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 4-nitrophenylacetic acid | 40 mmol, 7.25 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 60 mmol, 11.5 g | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Methoxyphenyl)-2-(4-nitro-phenyl)-acetamide | 9.6 g, 84% | COC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N2O4
